US04049823
A solution of 2.84 g. of 1-acetoxy-3-p-biphenylyl-3-butanol and 2 g. of NaOH in 30 ml. of 80% ethanol is boiled for 3 hours. Water is added and the mixture is extracted with chloroform and the extract is evaporated to give 3-p-biphenylyl-1,3-butanediol, m.p. 115- 117°.

reactant | 1-acetoxy-3-p-biphenylyl-3-butanol | C(C)(=O)OCCC(C)(O)C1=C(C=CC=C1)C1=CC=CC=C1 | C18H20O3
reactant | NaOH | [OH-].[Na+]
reactant | ethanol | C(C)O | C2H6O
solvent | Water | O | H2O
product | 3-p-biphenylyl-1,3-butanediol | C1(=C(C=CC=C1)C(CCO)(C)O)C1=CC=CC=C1 | C16H18O2
